US07666888B2
4-[1-({5-[4-(Trifluoromethyl)phenyl] isoxazol-4-yl}carbonyl)pyrrolidin-3-yl]pyridine
The title compound was prepared from 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid (12.9 mg, 0.050 mmol) and 4-pyrrolidin-3-ylpyridine hydrochloride (11.1 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (11.6 mg). Calcd for C20H16F3N3O2: 387.1195, found 387.1193.

reactant | 5-(4-trifluoromethylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 12.9 mg | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)O)(F)F | C11H6F3NO3
reactant | 4-pyrrolidin-3-ylpyridine hydrochloride | 0.060 mmol, 11.1 mg | Cl.N1CC(CC1)C1=CC=NC=C1
product | 4-[1-({5-[4-(Trifluoromethyl)phenyl] isoxazol-4-yl}carbonyl)pyrrolidin-3-yl]pyridine | FC(C1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C1=CC=NC=C1)(F)F | C20H16F3N3O2
